US09145435B2
Add 4N HCl in 1,4-dioxane (112 5 mmol) to a solution of tert-butyl 4-[(E)-4-[4-[[4-methyl-1-[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(acetoxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenyl]but-3-enyl]-4,9-diazaspiro[5.5]undecane-9-carboxylate (22.5 mmol) in dichloromethane (200 mL) at room temperature. Stir for 3 hours, then concentrate under reduced pressure to yield crude [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[(E)-4-(4,9-diazaspiro[5.5]undecan-4-yl)but-1-enyl]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate dihydrochloride (22.5 mmol): MS (m/z): 758.0 (M+H). Add triethylamine (112 5 mmol) to a solution of [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[(E)-4-(4,9-diazaspiro[5.5]undecan-4-yl)but-1-enyl]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate dihydrochloride (22 5 mmol) in dichloromethane (200 mL). In a separate flask, add CDI (28.1 mmol) portion wise to a solution of 2-(tert-butoxycarbonylamino)acetic acid (27 mmol) in dichloromethane (50 mL). After stirring for 45 minutes at room temperature, add the solution to the previously prepared amine solution and stir at room temperature for 1 hour. Wash with a concentrated sodium bicarbonate solution (200 mL) and brine (200 ml). Dry the organics over sodium sulfate, filter, and concentrate under reduced pressure to yield crude title compound (21.6 g, 22.5 mmol): MS (m/z): 915.2 (M+H).

reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 5 mmol | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-[(E)-4-[4-[[4-methyl-1-[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(acetoxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenyl]but-3-enyl]-4,9-diazaspiro[5.5]undecane-9-carboxylate | 22.5 mmol | CC1=C2C(=CN(C2=CC=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O)CC1=CC=C(C=C1)/C=C/CCN1CCCC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C48H63N3O11
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[(E)-4-(4,9-diazaspiro[5.5]undecan-4-yl)but-1-enyl]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate dihydrochloride | 22.5 mmol | Cl.Cl.C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)\C=C\CCN1CCCC2(C1)CCNCC2 | InChI=1S/C43H55N3O9.2ClH/c1-28-10-8-12-36-38(28)35(24-34-15-13-33(14-16-34)11-6-7-22-45-23-9-17-43(27-45)18-20-44-21-19-43)25-46(36)42-41(54-32(5)50)40(53-31(4)49)39(52-30(3)48)37(55-42)26-51-29(2)47;;/h6,8,10-16,25,37,39-42,44H,7,9,17-24,26-27H2,1-5H3;2*1H/b11-6+;;/t37-,39-,40+,41-,42-;;/m1../s1
